US07652061B2
To a stirred solution of (R)-pyrrolidine-2-carboxylic acid ethyl ester hydrochloride (1.7 g, 9.4 mmot), TEA (1.0 g, 10.3 mmol) and the title C compound, 2-methyl-2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid (3.0 g, 8.55 mmol) in DCM (50 mL) is added EDCl (2.0 g, 10.3 mmol) and 1-hydroxy-7-azabenzotriazole (HOAt, 1.2 g, 8.55 mmol) at RT. The reaction mixture is stirred for 48 h. The reaction mixture is diluted with ethyl acetate, washed with 2 N aqueous HCl, water, 2 N aqueous sodium hydroxide, water and brine, dried over anhydrous magnesium sulfate and concentrated at reduced pressure. The crude product is purified on a Biotage 40M column using 35% ethyl acetate in hexane to yield (R)-1-{2-methyl-2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionyl}-pyrrolidine-2-carboxylic acid ethyl ester as a clear oil.

reactant | (R)-pyrrolidine-2-carboxylic acid ethyl ester hydrochloride | 1.7 g | Cl.C(C)OC(=O)[C@@H]1NCCC1
reactant | 2-methyl-2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid | 8.55 mmol, 3.0 g | CC(C(=O)O)(C)C1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H21NO4
reactant | EDCl | 10.3 mmol, 2.0 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxy-7-azabenzotriazole | 8.55 mmol, 1.2 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-{2-methyl-2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionyl}-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N(CCC1)C(C(C)(C1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C)=O | C28H32N2O5
